Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypertensive urgency and nausea/vomiting 
 
Major Surgical or Invasive Procedure:
hemodialysis ___
 
History of Present Illness:
___ PMH DM1 c/b gastroparesis and autonomic dysfunction, CAD s/p 
STEMI, ESRD on HD, h/o AV endocarditis p/w recurrent 
nausea/vomiting and hypertensive urgency. The patient has had 
multiple admissions for the same and was last admitted ___. 
 
.  
In the ED, vitals: 98.4 ___ 18 100RA, a right femoral 
line was placed. EKG unremarkable, NSR 100bpm, NA, NI ST 
elvation V2-V4 unchanged from prior, reeceived dilaudid, ativan. 
 
.  
On arrival to the floor, the patient complained of diffuse 
abdominal pain and nausea.  
.  
ROS: Denies any fevers, chills, chest pain, shortness of breath, 
diarrhea, constipation, melena, hematochezia, focal weakness, 
vision changes, headache.  

 
Past Medical History:
1. Diabetes Mellitus Type I  
-Gastroparesis with chronic hospitalizations  
-ESRD on HD since ___  
-Autonomic dysfunction, frequent HTN emergency & orthostatic 
hypotension  
-peripheral neuropathy  
2. HTN  
3. CAD -s/p STEMI ___ in setting of cocaine, s/p BMS to 
LAD  
4. Hx line sepsis with coag negative staph ___, and priors 
with klebsiella and enterobacteremia  
5. Hx Coag Negative Staph Bacteremia - ___. Esophageal ulceration: H pylori neg, active esophagitis seen  

on EGD ___, h/o ___ tear  
7. Aortic Valve ___ transthoracic  
echocardiogram) in the context of coag neg staph bacteremia  
___ and ___ and positive intravenous catheter 
tip  
___ had his HD catheter changed over a wire. The catheter  
tip was positive for coag neg staph. On ___, he also had  
another indwelling catheter removed and this, too, had coag neg  

staph in culture. Of note, the "right triple lumen" catheter  
specimen had mixed bacterial flora, including coag neg staph.  
No blood cultures were positive after these catheters were  
removed(removed ___.  
8. h/o of substance abuse (cocaine, marijuana, alcohol)  
9. h/o of thrombosed AV fistula in LUE ___, gore-tex in place  

 
Social History:
___
Family History:
Father deceased of ESRD and DM. Mother aged ___ with 
hypertension. 2 sisters, one with diabetes. 6 brother, one with 
diabetes. There is no family history of premature coronary 
artery disease or sudden death.  

 
Physical Exam:
Vitals: T: 98.3 150/80 97 18 99RA  
Gen: Sleepy but arousable,  
HEENT: NCAT, PERRL, EOMI, OP clear, MM slightly dry  
Neck: Supple, no JVD, R tunnelled catheter site C/D/I  
CV: RRR, nl S1, S2, SEM II/VI LSB  
Resp: CTAB, no wheeze or crackles appreciated  
Abd: Normoactive BS, NT/ND  
Ext: No CCE, ___ pulses intact, R groin line dressing C/D/I  
.  
ECG: Sinus rhythm at 100bpm, NA, NI ST elev V2-V4 unchanged from 
prio  

 
Pertinent Results:
ADMISSION LABS
___ 06:00PM BLOOD WBC-3.5* RBC-3.85* Hgb-8.7* Hct-29.7* 
MCV-77* MCH-22.7* MCHC-29.4* RDW-17.3* Plt ___
___ 06:00PM BLOOD Neuts-63.9 ___ Monos-9.5 Eos-5.6* 
Baso-0.3
___ 06:00PM BLOOD ___ PTT-123.6* ___
___ 06:00PM BLOOD Glucose-135* UreaN-26* Creat-6.7*# Na-138 
K-3.4 Cl-96 HCO3-27 AnGap-18
___ 06:00PM BLOOD ALT-16 AST-21 AlkPhos-71 Amylase-95
___ 06:00PM BLOOD Lipase-50
___ 06:00PM BLOOD Albumin-3.9 Calcium-9.1 Phos-2.9# Mg-1.6

DISCHARGE LABS

___ 04:51AM BLOOD WBC-6.4 RBC-4.07*# Hgb-9.7*# Hct-33.1*# 
MCV-82 MCH-23.9* MCHC-29.3* RDW-16.9* Plt ___
 
Brief Hospital Course:
 
.  
___ PMH DM1 c/b gastroparesis and autonomic dysfunction, CAD s/p 

STEMI, ESRD on HD, h/o AV endocarditis admitted following 
Hypertensive urgency and n/v.  
.  
# Abd pain/N/V: Due to his usual gastroparesis with multiple 
admissions for same.  He was placed on IV dilaudid 2 mg q6 hours 

prn for the first 3 days of admission due to persistent pain, 
nausea and vomitting.  He began to tolerate POs on HD three and 
was discharged home.    
.  
# Hypertensive urgency: Resolved in ED, thought to be secondary 
to his usual autonomic dysfunction and pain with multiple 
admissions for same. There were no ECG changes and he remained 
chest pain free throughout hospital course.  BP was 
well-controlled throughout the 
remainder of his hospitalization on his outpatient regimen of 
labetolol, clonidine, lisinopril.   
.  
# CAD/elevated troponin: With known CAD s/p STEMI and BMS to LAD 

in ___. No ECG changes, no complaints of CP/SOB. Continued ASA, 
plavix, BB, statin 
.
#Anemia-Pt's Hct decreased slowly to 25 while hospitalized.  He 
received one unit PRBCs in dialysis without event. 
.  
# DM1: Complicated by ESRD, gastroparesis, autonomic 
dysfunction, peripheral neuropathy. FSG well controlled here.  
.  
# ESRD: HD was continued per outpt regimen ___. 
.  
# Aortic Valve Endocarditis/Staph coag negative Bacteremia: 
Completed treatment course ___. Repeat TEE ___ without 

evidence of endocarditis.  He had no evidence of new infection 
throughout hospital course, afebrile and without leukocytosis. 
.  
# Access: Access has been a long standing issue. During 
hospitalization, he had a femoral line placed  in ED and 
discontinued on ___ on discharge. Multiple attempts at pIVs 
without success.  
.  

 
Medications on Admission:
Clopidogrel 75 mg PO DAILY  
Lanthanum 500 mg TID W/MEALS  
Aspirin 325 mg PO DAILY  
Clonidine 0.3 mg/24 hr Patch Weekly QMON  
Atorvastatin 80 mg PO DAILY  
Metoclopramide 5 mg PO QIDACHS  
Gabapentin 200 mg PO 4X/WEEK (___)  
Gabapentin 100 mg PO 3X/WEEK (___)  
Pantoprazole 40 mg PO Q12H  
Docusate Sodium 100 mg PO BID  
Senna 8.6 mg PO BID  
Labetalol 100 mg PO TID  
Lisinopril 20 mg PO DAILY  
Insulin Glargine 6 units SC QHS  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lanthanum 500 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Clonidine 0.3 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QMON (every ___.  
5. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
7. Gabapentin 100 mg Capsule Sig: Two (2) Capsule PO 4X/WEEK 
___, MO, WE, FR) ().  
8. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO 3X/WEEK 
(___) ().  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
12. Labetalol 100 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
13. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Insulin Glargine 100 unit/mL Solution Sig: Six (6) units 
Subcutaneous at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diabetic gastroparesis
autonomic dysfunction
end stage renal disease on hemodialysis
peripheral neuropathy
coronary artery disease 

 
Discharge Condition:
stable, afebrile, blood pressure improved, good po intake
 
Discharge Instructions:
You were admitted with nausea, abdominal pain and were found to 
have very high blood pressure.  You were treated with extra 
blood pressure medication as needed and your intake was 
monitored.  You had a session of hemodialysis ___.  Your 
symptoms improved and you were felt to be stable for discharge 
home.
It is extremely important that you take your medications as 
prescribed.  You should follow up as outlined below.
Please seek medical attention if you have any abdominal pain, 
nausea, vomiting, dizzyness, chest pain, shortness of breath or 
any other concerning symptoms. 

 
Followup Instructions:
___